US09403808B2
5-Cyclopropyl-6-cyclopropylmethoxy-pyrazine-2-carboxylic acid (3-methoxy-1,1-dimethyl-propyl)-amide
The title compound was synthesized in analogy to Example 69 using 5-cyclopropyl-6-cyclopropylmethoxy-pyrazine-2-carboxylic acid (Example 10 g, 50 mg, 0.214 mmol) and 3-methoxy-1,1-dimethyl-propylamine (CAN 889765-21-3, 50 mg, 0.32 mmol) as starting materials and isolated (40 mg, 56.14%) as white solid; LC-MS (UV peak area, ESI) 99.87%, 333.8 (M+H)+.

reactant | 5-cyclopropyl-6-cyclopropylmethoxy-pyrazine-2-carboxylic acid | 0.214 mmol, 10 g | C1(CC1)C=1N=CC(=NC1OCC1CC1)C(=O)O | C12H14N2O3
reactant | 3-methoxy-1,1-dimethyl-propylamine | 0.32 mmol, 50 mg | COCCC(C)(C)N | C6H15NO
product | 5-Cyclopropyl-6-cyclopropylmethoxy-pyrazine-2-carboxylic acid (3-methoxy-1,1-dimethyl-propyl)-amide | COCCC(C)(C)NC(=O)C1=NC(=C(N=C1)C1CC1)OCC1CC1 | C18H27N3O3
